US04775406
25 pbw (0.10 mole) of 1-(2,6-diethylphenyl)imidazole-5-carboxylic acid and 27.0 pbw (0.11 mole) of a 50% aqueous solution of choline are heated in 100 pbv of toluene in a water separator, until the water has been completely removed. The mixture is allowed to cool and is then evaporated in vacuo. 34.5 pbw (97% of theory) of 2-hydroxyethyltrimethylammonium 1-(2,6-diethylphenyl)imidazole-5-carboxylate, a high-viscosity oil, are obtained; identification is carried out by 1H-NMR spectroscopy.

reactant | 1-(2,6-diethylphenyl)imidazole-5-carboxylic acid | 0.10 mole | C(C)C1=C(C(=CC=C1)CC)N1C=NC=C1C(=O)O | C14H16N2O2
reactant | choline | OCC[N+](C)(C)C
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-hydroxyethyltrimethylammonium 1-(2,6-diethylphenyl)imidazole-5-carboxylate | 97% | C(C)C1=C(C(=CC=C1)CC)N1C=NC=C1C(=O)[O-].OCC[N+](C)(C)C | InChI=1S/C14H16N2O2.C5H14NO/c1-3-10-6-5-7-11(4-2)13(10)16-9-15-8-12(16)14(17)18;1-6(2,3)4-5-7/h5-9H,3-4H2,1-2H3,(H,17,18);7H,4-5H2,1-3H3/q;+1/p-1
